US07396844B1
Synthesis of benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-(4-dimethylcarbamoylbenzoylamino)butyrate
2.05 g (4.33 mmol) of (1R)-1-benzyloxycarbonylmethyl-2-(5-cyano-2-iodophenoxy)ethyl ammonium chloride, 1.25 g (6.49 mmol) of 4-dimethylcarbamoylbenzoic acid, 994 mg (7.35 mmol) of 1-hydroxybenzotriazole, and 2.71 ml (19.46 mmol) of triethylamine were dissolved in 25 ml of dichloromethane, and 1.41 g (7.35 mmol) of 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride was added thereto and stirred under cooling with ice for 10 minutes and then at room temperature for 18 hours. The reaction was stopped by adding water, and the title compound was obtained in an ordinary manner by treatment with dichloromethane as the extractant to obtain the crude product. It was purified by silica gel column chromatography (hexane:ethyl acetate=3:1, v/v) to obtain the title compound.

reactant | (1R)-1-benzyloxycarbonylmethyl-2-(5-cyano-2-iodophenoxy)ethyl ammonium chloride | 4.33 mmol, 2.05 g | [Cl-].C(C1=CC=CC=C1)OC(=O)C[C@H](COC1=C(C=CC(=C1)C#N)I)[NH3+]
reactant | 4-dimethylcarbamoylbenzoic acid | 6.49 mmol, 1.25 g | CN(C(=O)C1=CC=C(C(=O)O)C=C1)C | C10H11NO3
reactant | 1-hydroxybenzotriazole | 7.35 mmol, 994 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 19.46 mmol, 2.71 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 7.35 mmol, 1.41 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | benzyl (3R)-4-(5-cyano-2-iodophenoxy)-3-(4-dimethylcarbamoylbenzoylamino)butyrate | C(#N)C=1C=CC(=C(OC[C@@H](CC(=O)OCC2=CC=CC=C2)NC(C2=CC=C(C=C2)C(N(C)C)=O)=O)C1)I | C28H26IN3O5
